US04351842
1-Phenyl-2,3-naphthalenedicarboxylic anhydride (3.0 g) and cyclopropylamine (5 ml) were shaken for 5 minutes. The reaction mixture became very warm and excess cyclopropylamine was evaporated in vacuo. The solid remaining was then heated at 220° to 240° for 5 minutes in a nitrogen atmosphere. The solid formed was allowed to cool and was recrystallised from light petroleum (b.p. 40°-60°)/chloroform to give 2-cyclopropyl-1,3-dioxo-4-phenylbenz[f]isoindoline, (2.7 g, m.p. 198°).

reactant | 1-Phenyl-2,3-naphthalenedicarboxylic anhydride | 3.0 g | C1(=CC=CC=C1)C1=C2C(=CC3=CC=CC=C13)C(=O)OC2=O | C18H10O3
reactant | cyclopropylamine | 5 ml | C1(CC1)N | C3H7N
product | 2-cyclopropyl-1,3-dioxo-4-phenylbenz[f]isoindoline | 2.7 g | C1(CC1)N1C(C=2C(=C3C(=CC2C1=O)C=CC=C3)C3=CC=CC=C3)=O | C21H15NO2
